US07666901B2
Preparation of (1E,4S,4aR,5R,6aS,7S)-1-[(4-benzylpiperazin-1-yl)methylene]-7,11-dihydroxy-4-(methoxymethyl)-4a,6a-dimethyl-2,10-dioxo-1,2,4,4a,5,6,6a,7,8,9,9a,10-dodecahydroindeno[4,5-h]isochromen-5-yl acetate
To a solution of 50 mg (0.12 mmol) 17-hydroxywortmannin in 0.5 mL CH2Cl2 is added 42.3 mg (0.24 mmol) 1-benzyl-piperazine. The reaction mixture is stirred at room temperature overnight. CH2Cl2 is removed in vacuo. The residue is triturated with Et2O to give 13 mg (17.8%) product as an orange powder. MS (ESI) m/z 607.2 (M+1).

reactant | 17-hydroxywortmannin | 0.12 mmol, 50 mg | CC(=O)O[C@@H]1C[C@]2([C@@H](CC[C@@H]2O)C3=C1[C@@]4(C=5C(=COC5C3=O)C(=O)O[C@@H]4COC)C)C | C23H26O8
reactant | 1-benzyl-piperazine | 0.24 mmol, 42.3 mg | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
solvent | CH2Cl2 | 0.5 mL | C(Cl)Cl | CH2Cl2
product | (1E,4S,4aR,5R,6aS,7S)-1-[(4-benzylpiperazin-1-yl)methylene]-7,11-dihydroxy-4-(methoxymethyl)-4a,6a-dimethyl-2,10-dioxo-1,2,4,4a,5,6,6a,7,8,9,9a,10-dodecahydroindeno[4,5-h]isochromen-5-yl acetate | 13 mg, 17.8% | C(C)(=O)O[C@@H]1C[C@@]2([C@H](CCC2C=2C(C(=C3\C(\C(O[C@@H]([C@@]3(C21)C)COC)=O)=C/N2CCN(CC2)CC2=CC=CC=C2)O)=O)O)C | C34H42N2O8
